US06034275
0.5 g of (4-bromophenyl)-(5-p-tolyl-thiophen-2-yl)-methanone and 262 mg of N-bromosuccinimide in 20 ml of carbon tetrachloride are held at reflux for 19 hrs. after the addition of a spatula tip of azaisobutyronitrile, concentrated and the residue is chromatographed on silica gel (methylene chloride/hexane). 517 mg of [5-(4-bromomethyl-phenyl)-thiophen-2-yl]-4-bromophenyl-methanone, m.p. 184° C. (decomposition), are isolated.

reactant | (4-bromophenyl)-(5-p-tolyl-thiophen-2-yl)-methanone | 0.5 g | BrC1=CC=C(C=C1)C(=O)C=1SC(=CC1)C1=CC=C(C=C1)C | C18H13BrOS
reactant | N-bromosuccinimide | 262 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azaisobutyronitrile | C(N(C)C)#N | C3H6N2
solvent | carbon tetrachloride | 20 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | [5-(4-bromomethyl-phenyl)-thiophen-2-yl]-4-bromophenyl-methanone | 517 mg | BrCC1=CC=C(C=C1)C1=CC=C(S1)C(=O)C1=CC=C(C=C1)Br | C18H12Br2OS
